Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],1.08331223701
[H:5].[O:1]=[C:2]([H:3])[C:4](=[C:6]([H:7])[H:8])[C:9](=[O:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9](=[O:10])[H:11],-1.43589081285
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],5.00660812809
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],3.95703011927
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:8]([H:9])#[C:10][C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7],3.67681238161
[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.61114819376
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3],5.6520354830900015
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[H:17],4.25593923455
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16]>>[H:1][C:2]([C:3][C:7]([H:8])([H:9])[H:10])([H:13])[C:14]([C:11](=[C:6]([H:4])[H:5])[H:12])([H:15])[H:16],1.5067548111000002
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.18658900951
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:8](\[H:9])[O:10][H:11].[O:6][H:7]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11],-2.45646431874
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.66333435945
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.94389595266
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[O:4],-1.95775550888
[H:1][C:2].[O:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:9][H:10],-3.92388327706
[H:1][C:2]([H:3])[C:4]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.57087248201
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-1.00859067286
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.36072519286
[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10]>>[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][C:10].[H:8],4.02010295819
[C:1][C:2]([H:3])([H:4])[C:5][O:7][H:8].[O:6]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][H:8],-7.60924486776
[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.51526607138
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8].[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],0.90419323887
[H:1][O:2][C:3]([H:4])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.27672626176
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11].[H:12],5.98136707092
[H:1][C:2][C:3]([H:4])=[C:5]([O:7][H:8])[O:9][H:10].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10],-3.60413464688
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2],6.53563595184
[H:1][C:2]([H:3])=[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-2.97426779676
